US06001855
In analogy to Example 4, by coupling 2-guanidino-thiazole-4-carboxylic acid sodium salt with ethyl (RS)-3-[(piperidine-3-carbonyl)-amino]-propionate hydrochloride there is obtained ethyl (RS)-3-[[1-(2-guanidino-thiazole-4-carbonyl)-piperidine-3-carbonyl]-amino]-propionate as a white foam. MS: 397 (M+H)+.

reactant | 2-guanidino-thiazole-4-carboxylic acid sodium salt | [Na+].N(C(=N)N)C=1SC=C(N1)C(=O)[O-]
reactant | ethyl (RS)-3-[(piperidine-3-carbonyl)-amino]-propionate hydrochloride | Cl.N1CC(CCC1)C(=O)NCCC(=O)OCC
product | ethyl (RS)-3-[[1-(2-guanidino-thiazole-4-carbonyl)-piperidine-3-carbonyl]-amino]-propionate | N(C(=N)N)C=1SC=C(N1)C(=O)N1CC(CCC1)C(=O)NCCC(=O)OCC | C16H24N6O4S
